US08648068B2
XXIV.1 3-Nitro-2-(tetrahydro-pyran-4-yloxy)-pyridine
Prepared analogously to I.1 from 2-fluor-3-nitropyridine and tetrahydro-pyran-4-ol.

reactant | 2-fluor-3-nitropyridine | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | tetrahydro-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 3-Nitro-2-(tetrahydro-pyran-4-yloxy)-pyridine | [N+](=O)([O-])C=1C(=NC=CC1)OC1CCOCC1 | C10H12N2O4
